US08012986B2
2-(4-Iodo-imidazol-1-yl)-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine
The title compound was prepared from 2-chloro-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine (example A.2) (1.31 g, 4.0 mmol) and commercially available 4-iodo-imidazole (0.85 g, 4.4 mmol) according to the general procedure Ia. Obtained as a light brown solid (1.84 g, 95%). MS (ISP) 486.9 [(M+H)+]; mp 179° C.

reactant | 2-chloro-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | 4.0 mmol, 1.31 g | ClC1=NC(=CC(=N1)C(F)(F)F)C=1C=NC(=CC1)C(F)(F)F | C11H4ClF6N3
reactant | 4-iodo-imidazole | 4.4 mmol, 0.85 g | IC=1N=CNC1 | C3H3IN2
product | 2-(4-Iodo-imidazol-1-yl)-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | IC=1N=CN(C1)C1=NC(=CC(=N1)C(F)(F)F)C=1C=NC(=CC1)C(F)(F)F | C14H6F6IN5
